US07960419B2
Combine 4-methoxybenzonitrile (50.0 g, 376 mmol), potassium t-butoxide (84.2 g, 752 mmol), propionitrile (62.0 g, 1.130 mmol) and toluene (1,880 mL); and stir for 72 h. Dilute with satd NaHCO3 and extract with EtOAc. Evaporate the organic solution and crystallize from hexane/EtOAc to afford 3-amino-3-(4-methoxyphenyl)-2-methylacrylonitrile. Yield: 35.1%. ES-MS: m/e 189.2 (m+1).

reactant | 4-methoxybenzonitrile | 376 mmol, 50.0 g | COC1=CC=C(C#N)C=C1 | C8H7NO
reactant | potassium t-butoxide | 752 mmol, 84.2 g | CC(C)([O-])C.[K+]
reactant | propionitrile | 1.130 mmol, 62.0 g | C(CC)#N | C3H5N
reactant | toluene | 1,880 mL | C1(=CC=CC=C1)C | C7H8
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-amino-3-(4-methoxyphenyl)-2-methylacrylonitrile | Yield: 35.1% | NC(=C(C#N)C)C1=CC=C(C=C1)OC | C11H12N2O
